US04859699
Following the procedure of Example 12, 2-nitro-4-chloro-5-(4-chlorophenyl)thiophene (2.3 g) is reacted with acetic anhydride (14 ml) and iron powder (2.3 g) in acetic acid (14 ml), followed by reacton with HCl and methanol (30 ml) to give 2-amino-4-chloro-5-(4-chlorophenyl)thiophene hydrochloric acid salt.

reactant | 2-nitro-4-chloro-5-(4-chlorophenyl)thiophene | 2.3 g | [N+](=O)([O-])C=1SC(=C(C1)Cl)C1=CC=C(C=C1)Cl | C10H5Cl2NO2S
reactant | acetic anhydride | 14 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | Cl | ClH
reactant | methanol | 30 ml | CO | CH4O
solvent | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 2.3 g | [Fe] | Fe
product | 2-amino-4-chloro-5-(4-chlorophenyl)thiophene hydrochloric acid salt | Cl.NC=1SC(=C(C1)Cl)C1=CC=C(C=C1)Cl | InChI=1S/C10H7Cl2NS.ClH/c11-7-3-1-6(2-4-7)10-8(12)5-9(13)14-10;/h1-5H,13H2;1H
